US04707500
1. Sodium Silicate
100 grams Cab-o-sil M-5 and 69 grams NaOH (50 wt %) were dissolved in 750 ml deionized water.

reactant | Cab-o-sil M-5 | 100 grams | O=[Si]=O | O2Si
reactant | NaOH | 69 grams | [OH-].[Na+]
reactant | water | O | H2O
product | Sodium Silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
